US04450164
STEP A: Preparation of 8-hydroxy-2-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine hydrochloride.
A mixture of 8-benzyloxy-2-methyl-imidazo[1,2-a]pyridine (5.9 g), 6.1 N HCl(4.2 ml), 10% Palladium-on-charcoal (5.9 g) and 240 ml ethanol was hydrogenated under a H2 -pressure of about 3.5 kg/cm2 for 22 hrs. at room temperature, after which period a further 2 g of fresh catalyst was added and hydrogenation continued for another 45 hrs. After filtration and evaporation of the solvent at the reduced pressure, the title compound is obtained as a pale yellow solid with m.p. 140°-152° C.

reactant | 8-benzyloxy-2-methyl-imidazo[1,2-a]pyridine | 5.9 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)C | C15H14N2O
reactant | HCl | 6.1 N, 4.2 ml | Cl | ClH
catalyst | Palladium-on-charcoal | 5.9 g | [Pd] | Pd
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 8-hydroxy-2-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine hydrochloride | Cl.OC1C=2N(CCC1)C=C(N2)C | InChI=1S/C8H12N2O.ClH/c1-6-5-10-4-2-3-7(11)8(10)9-6;/h5,7,11H,2-4H2,1H3;1H
